US07078414B2
1.37 g (25.37 mmol) of sodium methoxide are added at a temperature in the region of 20° C. under an argon atmosphere to 25 mL of methanol. After complete dissolution, 2.5 g (26.2 mmol) of guanidine hydrochloride are added. After stirring at a temperature in the region of 20° C. for 1 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is suspended in 25 mL of 1,2-dimethoxyethane and then again concentrated to dryness. The residue is suspended in a mixture of 50 mL of tetrahydrofuran, 25 mL of acetonitrile and 50 mL of dichloromethane at a temperature in the region of 20° C. under an argon atmosphere and then 1.18 g (4.36 mmol) of 3-chlorocarbonyl-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole, dissolved in 20 mL of chloroform, are added thereto. After stirring at a temperature in the region of 20° C. for 18 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is triturated in 100 mL of water. After filtering, a gum is obtained, which gum is dissolved in 50 mL of methanol. The solution obtained is partially concentrated to a volume of 5 to 10 mL and is then purified by silica gel chromatography [eluent: chloroform/methanol (75/25 by volume)]. After concentrating the fractions under reduced pressure and triturating in ethyl ether, 0.62 g of 3-guanidinocarbonyl-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole hydrochloride is obtained in the form of a white solid melting at 247° C. Mass spectrum (EI): EI: m/e 293 (M+.), m/e 234.

reactant | sodium methoxide | 25.37 mmol, 1.37 g | C[O-].[Na+]
reactant | guanidine hydrochloride | 26.2 mmol, 2.5 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole | 4.36 mmol, 1.18 g | ClC(=O)C1=CN(C=C1C)C1=NC=CC2=CC=CC=C12 | C15H11ClN2O
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
product | 3-guanidinocarbonyl-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole hydrochloride | 0.62 g | Cl.N(C(=N)N)C(=O)C1=CN(C=C1C)C1=NC=CC2=CC=CC=C12 | InChI=1S/C16H15N5O.ClH/c1-10-8-21(9-13(10)15(22)20-16(17)18)14-12-5-3-2-4-11(12)6-7-19-14;/h2-9H,1H3,(H4,17,18,20,22);1H
